US09403832B2
Part C. 3-Thiophen-2-yl-4H-pyrazolo[1,5-a]pyrimidin-5-one
A 21 wt % solution of sodium ethoxide in ethanol (32.7 mL, 87.6 mmol) was slowly added to an ambient temperature, stirred suspension of 4-thiophen-2-yl-2H-pyrazol-3-ylamine (4.1 g, 25.0 mmol) and 1,3-dimethylpyrimidine-2,4(1H,3H)-dione [874-14-6] (3.9 g, 27.5 mmol) in ethanol (217 mL). As addition progressed the solid dissolved to give a clear brown solution. The solution was heated to reflux for 2 d, cooled, then poured into 5% (w/v) aqueous ammonium chloride. Ethanol was evaporated out and the reduced volume product solution chilled, with stirring, in an ice bath to precipitate 3-thiophen-2-yl-4H-pyrazolo[1,5-a]pyrimidin-5-one as 3.2 g of red-brown fine crystalline powder, mp. 231-232° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.13 (br. s., 1 H) 7.10 (dd, J=5.05, 3.54 Hz, 1 H) 7.38-7.46 (m, 2 H) 8.07 (br. s., 1 H) 8.51-8.73 (m, 1 H) 12.06 (br. s., 1 H). 13C NMR (100 MHz, DMSO-d6) δ ppm 123.66, 127.71, 138.70, 142.47. LRMS (ESI) m/z 218.0 [(M+H)]+, calc'd for C10H7N3OS: 217.25.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 4-thiophen-2-yl-2H-pyrazol-3-ylamine | 25.0 mmol, 4.1 g | S1C(=CC=C1)C1=C(NN=C1)N | C7H7N3S
reactant | 1,3-dimethylpyrimidine-2,4(1H,3H)-dione | 27.5 mmol, 3.9 g | CN1C(N(C(C=C1)=O)C)=O | C6H8N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 217 mL | C(C)O | C2H6O
solvent | ethanol | 87.6 mmol, 32.7 mL | C(C)O | C2H6O
product | 3-Thiophen-2-yl-4H-pyrazolo[1,5-a]pyrimidin-5-one | S1C(=CC=C1)C=1C=NN2C1NC(C=C2)=O | C10H7N3OS
